US07705027B2
5-(5-chloro-2,4-dihydroxyphenyl)-4-(4-methoxy-phenyl)-isoxazole-3-carboxylic acid ethylamide
To an ice-bath cooled solution of 5-(2,4-Bis-benzyloxy-5-chlorophenyl)-4-(4-methoxy-phenyl)-isoxazole-3-carboxylic acid ethylamide (0.213 mg, 0.374 mmol) in dichloromethane (5 mL) under a nitrogen atmosphere was added a 1.0M solution of Boron trichloride in dichloromethane (1.12 mL; 1.12 mmol). The reaction mixture was stirred at 0° C. for 15 minutes then at ambient temperature for 35 minutes. The reaction mixture was re-cooled to 0° C. and quenched by the addition of saturated aqueous sodium hydrogen carbonate solution (5 mL). After stirring for 5 minutes the dichloromethane was removed in vacuo and the residue was partitioned between ethyl acetate (30 mL) and water (30 mL). The phases were separated and the organic phase was washed with water (30 mL), saturated aqueous sodium chloride solution (30 mL) then dried over sodium sulphate. The mixture was filtered and the filtrate solvents were removed in vacuo to afford a foam-like colourless solid which was purified by adsorption onto silica gel then flash chromatography on silica gel (10 g IST) eluting with 50% ethyl acetate in hexane. This affords 5-(5-chloro-2,4-dihydroxyphenyl)-4-(4-methoxy-phenyl)-isoxazole-3-carboxylic acid ethylamide as a colourless solid (0.097 g; 67%). LCMS: [M+H]+ 391, 389 (37Cl; 35Cl). 1H NMR (400 MHz, d6-DMSO) □ 1.08 (t, 3H), 3.22 (m, 2H), 3.73 (s, 3H), 6.59 (s 1H), 6.87 (d, 1H), 7.13-7.17 (m, 3H), 8.88 (brt, 1H), 10.09 (s, 1H), 10.62 (s, 1H).

reactant | 5-(2,4-Bis-benzyloxy-5-chlorophenyl)-4-(4-methoxy-phenyl)-isoxazole-3-carboxylic acid ethylamide | 0.374 mmol, 0.213 mg | C(C)NC(=O)C1=NOC(=C1C1=CC=C(C=C1)OC)C1=C(C=C(C(=C1)Cl)OCC1=CC=CC=C1)OCC1=CC=CC=C1 | C33H29ClN2O5
reactant | Boron trichloride | B(Cl)(Cl)Cl | BCl3
solvent | dichloromethane | 5 mL | ClCCl | CH2Cl2
solvent | dichloromethane | 1.12 mmol, 1.12 mL | ClCCl | CH2Cl2
product | 5-(5-chloro-2,4-dihydroxyphenyl)-4-(4-methoxy-phenyl)-isoxazole-3-carboxylic acid ethylamide | C(C)NC(=O)C1=NOC(=C1C1=CC=C(C=C1)OC)C1=C(C=C(C(=C1)Cl)O)O | C19H17ClN2O5
